US07732435B2
[8-Bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester
A stirred solution of 7-amino-8-bromo-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one (0.242 g, 0.62 mmol) in anhydrous methylene chloride (5 ml) is treated with a 20% solution of phosgene in toluene (0.5 ml). After 3 h, triethylamine (0.12 g, 0.17 ml, 1.24 mmol, 2 eq.) is added, followed by benzyl alcohol (0.067 g, 0.064 ml, 0.62 mmol), and the solution is stirred at room temperature overnight. The solution is diluted with methylene chloride and washed with water. The organic layer is dried (magnesium sulfate) and filtered, and the solvent is removed by evaporation in vacuo. The resulting solid is purified by flash chromatography (cyclohexane/ethyl acetate=9:1) to afford the title compound as a pale yellow solid.

reactant | 7-amino-8-bromo-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | 0.62 mmol, 0.242 g | NC1=CC=C2C(C(=C(OC2=C1Br)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H15BrClNO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 1.24 mmol, 0.17 ml, 0.12 g, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 0.62 mmol, 0.064 ml, 0.067 g | C(C1=CC=CC=C1)O | C7H8O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | [8-Bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC=C2C(C(=C(OC2=C1Br)C(C)C)C1=CC=C(C=C1)Cl)=O)=O | C26H21BrClNO4
